US04294760
A solution of 1.45 g (0.01 mole) of 4-methylbenzoylcyanide, 1.5 g (0.01 mole) of methyl 1-methylpyrrole-2-acetate and 40 mg (0.25 mmoles) of trichloroacetic acid in 4 ml of ether was stirred at 25° under nitrogen for 21 days. The precipitated solid was collected by filtration and washed with cold ether, than hexane. The combined filtrates were evaporated in vacuo. A second crop of crystals was taken from hexane. After recrystallization from toluene:hexane was obtained, 0.46 g (16 percent yield) of methyl 5-[cyanohydroxy(4-methylphenyl)-methyl]-1-methylpyrrole-2-acetate mp 117°-118°. H1NMR CDCl3 2.35 (s, 3 H); 3.35 (s, 3 H); 3.55 (s, 2H); 3.65 (s, 3 H); 5.90 (d, 1 H); 6.05 (d, 1H); 7.15 (d, 2H); 7.35 (d, 2H). MS m/e 281, 280, 266, 212 IRnujol 3425, 1700 cm-1.

reactant | 4-methylbenzoylcyanide | 0.01 mole, 1.45 g | CC1=CC=C(C(=O)C#N)C=C1 | C9H7NO
reactant | methyl 1-methylpyrrole-2-acetate | 0.01 mole, 1.5 g | CN1C(=CC=C1)CC(=O)OC | C8H11NO2
reactant | trichloroacetic acid | 0.25 mmoles, 40 mg | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
solvent | ether | 4 ml | CCOCC | C4H10O
product | methyl 5-[cyanohydroxy(4-methylphenyl)-methyl]-1-methylpyrrole-2-acetate | 0.46 g, 16 percent yield | C(#N)C(C1=CC=C(N1C)CC(=O)OC)(C1=CC=C(C=C1)C)O | C17H18N2O3
